US07875645B2
2-(2-Chloro-6-fluoro-3-methyl-benzyl)-4,5-dihydro-1H-imidazole was prepared from (2-chloro-6-fluoro-3-methylphenyl)-acetonitrile and ethylene diamine in analogy to Example 19 b): off-white solid; MS (ISP): 227.0 ((M+H)+.).

reactant | (2-chloro-6-fluoro-3-methylphenyl)-acetonitrile | ClC1=C(C(=CC=C1C)F)CC#N | C9H7ClFN
reactant | ethylene diamine | C(CN)N | C2H8N2
product | 2-(2-Chloro-6-fluoro-3-methyl-benzyl)-4,5-dihydro-1H-imidazole | ClC1=C(CC=2NCCN2)C(=CC=C1C)F | C11H12ClFN2
